US05173493
Acetic anhydride (2.24 g) was added to a solution of 8,9-dihydro-7-[(hydroxy)(2-methylpridin-3-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one (1.35 g, a mixture of the isomers A and B) in pyridine (20 ml). After being stirred at 60° C. for 2 hours, the solution was evaporated in vacuo. The residue was diluted with chloroform, washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue and 1,8-diazabicyclo[5.4.0]undec-7-ene (1.27 g) were dissolved in toluene (30 ml). The solution was stirred at 60° C. for 2 hours and evaporated in vacuo. The residue was crystallized from ethyl acetate to give 8,9-dihydro-10-methyl-7-[(2-methylpyridin-3-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (0.92 g).

reactant | Acetic anhydride | 2.24 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 8,9-dihydro-7-[(hydroxy)(2-methylpridin-3-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one | OC(C1CCC=2N(C3=CC=CC=C3C2C)C1=O)C=1C(=NC=CC1)C | C20H20N2O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 8,9-dihydro-10-methyl-7-[(2-methylpyridin-3-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 0.92 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)=CC=2C(=NC=CC2)C)=O | C20H18N2O
